US09169259B2
6-Phenyl-N-(6-(trifluoromethyl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine hydrochloride
A mixture of 6-chloro-N-(6-(trifluoromethyl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (157 mg, 0.5 mmol), phenylboronic acid (92 mg, 0.75 mmol), Pd2(dba)3 (29 mg, 0.05 mmol), X-phos (96 mg, 0.2 mmol) and K2CO3 (208 mg, 1.5 mmol) in dioxane (10 mL) and water (1 mL) was heated to 100° C. with stirring for 4 h under N2. The solvent was removed in vacuo and the resulting mixture was purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=3:1) to give crude product (135 mg) which was further purified by prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 20% acetonitrile/80% water (0.1% TFA, v/v) initially, proceeding to 50% acetonitrile/50% water (0.1% TFA, v/v) in a linear fashion over 9 min) to give a light yellow solid. The mixture was dissolved in methanol then three drops of concentrated HCl were added and the mixture was stirred for 5 minutes, then concentrated in vacuo to give the final product 6-phenyl-N-(6-(trifluoromethyl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine hydrochloride (65 mg, 37%) as a HCl salt. 1H NMR (300 MHz, CD3OD): δ 9.40 (s, 1H), 8.48 (d, 1H, J=2.1 Hz), 8.21 (d, 1H, J=2.4 Hz), 8.12-8.06 (m, 3H), 7.61-7.56 (m, 4 h), 7.48 (d, 1H, J=8.4 Hz). LC-MS: 356, [M+H]+, tR=1.822 min, HPLC: 100% at 214 nm, 99.96% at 254 nm, tR=7.247 min.

reactant | 6-chloro-N-(6-(trifluoromethyl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.5 mmol, 157 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)C(F)(F)F | C12H7ClF3N5
reactant | phenylboronic acid | 0.75 mmol, 92 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | X-phos | 0.2 mmol, 96 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | K2CO3 | 1.5 mmol, 208 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | methanol | CO | CH4O
catalyst | HCl | three drops | Cl | ClH
catalyst | Pd2(dba)3 | 0.05 mmol, 29 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-phenyl-N-(6-(trifluoromethyl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine hydrochloride | 65 mg, 37% | Cl.C1(=CC=CC=C1)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)C(F)(F)F | InChI=1S/C18H12F3N5.ClH/c19-18(20,21)15-7-4-8-16(24-15)23-14-11-13(12-5-2-1-3-6-12)25-26-10-9-22-17(14)26;/h1-11H,(H,23,24);1H
